US06770662B2
4-benzyloxy-3-methoxytoluene (8.0 g) was dissolved in dimethylformamide (30 ml and a dimethylformamide (15 ml) solution of N-bromosuccinimide (6.36 g) was dropwise added thereto, followed by stirring at room temperature for one night. The reaction solution was poured into ice water (400 ml), and crystals thus deposited were collected by filtration, adequately washed with water, and dried for one night to obtain 10.64 g of 4-benzyloxy-2-bromo-5-methoxytoluene (m.p. 110-111° C.) substantially quantitatively, and its structure was confirmed by nuclear magnetic resonance spectrum.

reactant | 4-benzyloxy-3-methoxytoluene | 8.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C)OC | C15H16O2
reactant | N-bromosuccinimide | 6.36 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-benzyloxy-2-bromo-5-methoxytoluene | 10.64 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1OC)C)Br | C15H15BrO2
